US04678781
The starting material may be obtained as follows: Reaction of 4-methylthiopyridine with one equivalent of 2-dimethylaminoethyl chloride hydrochloride in EtOH at reflux for 18 hours gave 1-(2-dimethylaminoethyl)-4-methylthiopyridinium chloride. n.m.r. in solvent B: 2.7(s, 3H); 2.87(s, 6H); 3.75(t, 2H); 4.92(t, 2H); 7.98(d, 2H); 8.84(d, 2H). Oxidation of this compound with metachlorperbenzoic acid in CH2Cl2 /TFA at 0° to ambient temperature for 40 minutes gave 1-(2-dimethylaminoethyl)-4-methanesulphinylpyridinium chloride. n.m.r. in solvent B: 3.0(s, 6H); 3.34(s, 3H); 3.87(t, 2H); 5.16(t, 2H); 8.52(d, 2H); 9.36(d, 2H).

reactant | 4-methylthiopyridine | CSC1=CC=NC=C1 | C6H7NS
reactant | 2-dimethylaminoethyl chloride hydrochloride | one equivalent | Cl.CN(CCCl)C
solvent | EtOH | CCO | C2H6O
product | 1-(2-dimethylaminoethyl)-4-methylthiopyridinium chloride | [Cl-].CN(CC[N+]1=CC=C(C=C1)SC)C | InChI=1S/C10H17N2S.ClH/c1-11(2)8-9-12-6-4-10(13-3)5-7-12;/h4-7H,8-9H2,1-3H3;1H/q+1;/p-1
